US06255301B1
(i) 3-Chloro-5-methylbenzyl Bromide
A solution of 5-chloro-m-xylene (14.06 g; 0.1 mol), NBS (17.8 g; 0.1 mol) and AIBN (1.1 g; 6.7 mmol) in CCl4 was refluxed for two hours. The resultant mixture was cooled, and the solid material formed was removed by filtration. Concentration yielded the sub-title compound (17.9 g; 80%).

reactant | 5-chloro-m-xylene | 0.1 mol, 14.06 g | ClC=1C=C(C=C(C1)C)C | C8H9Cl
reactant | NBS | 0.1 mol, 17.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 6.7 mmol, 1.1 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 3-Chloro-5-methylbenzyl Bromide | 17.9 g, 80% | ClC=1C=C(CBr)C=C(C1)C | C8H8BrCl
